US05948819
Synthesis of ethyl α-methoxy-2-(tetrahydropyran-2-yloxymethyl)phenylacetate
Methyl iodide (20.25 g, 143 mmol) was added to a solution of ethyl α-hydroxy-2-(tetrahydropyran-2-yloxymethyl)phenylacetate (14.00 g, 47.6 mmol) in N,N-dimethylformamide (40 ml), and the mixture was stirred at 0° C. 60% oily sodium hydride (1.90 g, 47.5 mmol) was added thereto. After 30 minutes, water (100 ml) was added, and the mixture was extracted with ether and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by column chromatography on silica gel (n-hexane/ ethyl acetate=4/1) to give the desired compound ethyl α-methoxy-2-(tetrahydropyran-2-yloxymethyl)phenylacetate (14.00 g, 95.5%) as an oil.

reactant | Methyl iodide | 143 mmol, 20.25 g | CI | CH3I
reactant | ethyl α-hydroxy-2-(tetrahydropyran-2-yloxymethyl)phenylacetate | 47.6 mmol, 14.00 g | OC(C(=O)OCC)C1=C(C=CC=C1)COC1OCCCC1 | C16H22O5
reactant | sodium hydride | 47.5 mmol, 1.90 g | [H-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | ethyl α-methoxy-2-(tetrahydropyran-2-yloxymethyl)phenylacetate | 14.00 g, 95.5% | COC(C(=O)OCC)C1=C(C=CC=C1)COC1OCCCC1 | C17H24O5
